US07365193B2
(1R,5R)-6-Methyl-3,6-diazabicyclo[3.2.0]heptane-3-carboxylic acid benzyl ester
To a solution of (1R,5R)-3,6-diazabicyclo[3.2.0]heptane-3-carboxylic acid benzyl ester (14.2 g, 61.2 mmol; prepared according to patent WO 2001081347) and aqueous formaldehyde (38%, 100 mL, 1.38 mol; Fisher) in water (100 mL) was added sodium triacetoxyborohydride (25.8 g, 122 mmol; Aldrich). The mixture was stirred at room temperature until the reaction was complete according to HPLC analysis. The mixture was extracted with chloroform (3×100 mL) and the organic phase was washed with brine (100 mL) and concentrated under reduced pressure to afford the title compound (13.6 g, 55.3 mmol; 90% yield): 1H NMR (300 MHz, CD3OD) δ ppm 7.26-7.42 (5H, m), 5.15 (2H, s), 3.85 (1H, dd, J=7, 4 Hz), 3.69-3.79 (1H, m), 3.42-3.55 (1H, m), 3.13-3.25 (4H, m), 2.98-3.09 (1H, m), 2.32 (3H, s); MS (DCl/NH3) m/z 247 (M+H)+.

reactant | (1R,5R)-3,6-diazabicyclo[3.2.0]heptane-3-carboxylic acid benzyl ester | 61.2 mmol, 14.2 g | C(C1=CC=CC=C1)OC(=O)N1C[C@H]2CN[C@H]2C1 | C13H16N2O2
reactant | formaldehyde | 1.38 mol, 100 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 122 mmol, 25.8 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | water | 100 mL | O | H2O
product | (1R,5R)-6-Methyl-3,6-diazabicyclo[3.2.0]heptane-3-carboxylic acid benzyl ester | 55.3 mmol, 13.6 g, 90% yield | C(C1=CC=CC=C1)OC(=O)N1C[C@H]2CN([C@H]2C1)C | C14H18N2O2
